US07081465B2
A mixture of (4-methoxyphenyl)-[3-(naphthalen-2-yloxy)propyl]amine (0.5 gm, 0.002 mole) and methyl iodide (0.49 ml, 0.003 mole) was taken in dry acetone (40 ml). It was refluxed for 12 hrs and the progress of reaction checked by TLC. Reaction mixture was filtered and the filtrate was concentrated to get oily compound which was further crystallized by benzene hexane mixture to get N-(4 methoxyphenyl)-N-methyl (3-(naphthalen-2-yloxy)propyl) amine, crystallized as yellow solid, m.p. 112° C., (yield 0.69 gm, 94%)

reactant | (4-methoxyphenyl)-[3-(naphthalen-2-yloxy)propyl]amine | 0.002 mole, 0.5 gm | COC1=CC=C(C=C1)NCCCOC1=CC2=CC=CC=C2C=C1 | C20H21NO2
reactant | methyl iodide | 0.003 mole, 0.49 ml | CI | CH3I
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N-(4 methoxyphenyl)-N-methyl (3-(naphthalen-2-yloxy)propyl) amine | COC1=CC=C(C=C1)N(C)CCCOC1=CC2=CC=CC=C2C=C1 | C21H23NO2
